US05108485
Preparation of 1,3-Dimethyl-1-H-indazole-4,5-dicarboxylic anhydride
A mixture of 1,3-dimethyl-1H-indazole-4,5-dicarboxylic acid (6.30 g, 26.9 mmol) and acetic anhydride is stirred at reflux temperature for 3 hours, cooled to 5° C. and filtered The filter cake is air-dried to give the title product as chartreuse needles (4.80 g, 82.5%), mp 214°-215.5° C.

reactant | 1,3-dimethyl-1H-indazole-4,5-dicarboxylic acid | 26.9 mmol, 6.30 g | CN1N=C(C2=C(C(=CC=C12)C(=O)O)C(=O)O)C | C11H10N2O4
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 1,3-Dimethyl-1-H-indazole-4,5-dicarboxylic anhydride | CN1N=C(C2=C3C(=CC=C12)C(=O)OC3=O)C | C11H8N2O3
